US07351719B2
ethyl (4-bromo-2-chloro-phenoxy)-acetate
14.5 mL (83.242 mmol) Hünig base was added to a solution of 7.800 g (37.222 mmol) 4-bromo-2-chlorophenol and 4.70 mL (41.537 mmol) ethyl bromoacetate in 100 mL DMF and the mixture was stirred for 4 h at 100° C. The reaction mixture was combined with water and exhaustively extracted with EtOAc. The combined org. phases were washed with saturated aqueous sodium bicarbonate, water and saturated aqueous NaCl, dried over sodium sulphate and evaporated down i. vac. The crude product was used in the next reaction step without any further purification.

reactant | Hünig base | 83.242 mmol, 14.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromo-2-chlorophenol | 37.222 mmol, 7.800 g | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | ethyl bromoacetate | 41.537 mmol, 4.70 mL | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | ethyl (4-bromo-2-chloro-phenoxy)-acetate | BrC1=CC(=C(OCC(=O)OCC)C=C1)Cl | C10H10BrClO3
